Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I can't keep doing this."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of problematic 
alcohol use with multiple rehab admissions, one prior 
psychiatric admission but no history of suicide attempts or 
suicidal ideation, who ___ at the urging of her 
friends and PCP in the setting of new onset suicidal ideation 
due to significant social stressors.  During initial and 
subsequent interviews, patient reported that the past year has 
been very difficult due to various stressors including recent 
deaths in her family (aunt), ill family members who she cares 
for, and a verbally/emotionally relationship with her husband. 
Her marriage has become increasingly complicated over the past 
months. Patient indicated that her husband is both verbally and 
emotionally abusive, but denied physical abuse and reports still 
feeling safe with him. She experiences him as very manipulative 
and uses intimidation/threats in their relationship. She 
describes lengthy history explaining that she has a longstanding 
history of sobriety and relapse. She initially planned to get 
sober ___ years ago and went to a rehab facility in ___. 
However, upon returning home last year, her husband stated he 
disliked her sober and wanted to leave her. So, she started 
drinking 5 days later and her husband responded by requesting 
that the family therapist request a Section 35. Patient was 
admitted to ___ in ___ where she spent 22 days in 
___. She was subsequently hospitalized ___ at 
___ for alcohol misuse. Patient reiterated that 
she has never experienced suicidal ideation prior to current 
episode.
.
Since the ___ until present, patient reported at least 
three additional alcohol rehab admissions at various facilities 
(including ___, both ___. 
Patient reported that she is in daily communication with her AA 
sponsor, and has many friends/supports in the community (some of 
whom are also working the program). However, patient reported 
that in the setting of escalating marital strain, patient 
started drinking  this past ___ night (___) after 
concern that her husband had cheated on her. She recalled having 
4 large drinks of vodka, a bottle of wine, and a small bottle of 
Champagne. Following alcohol consumption, her husband would not 
allow her back in the house, so she climbed through a window. 
Her husband then called the  police. The police, reportedly 
observing her as intoxicated in the presence of her children in 
the home, contacted DCF.  Since then, patient has been living in 
a hotel and has not been able to go home. She has been feeling 
increasingly hopeless and states that she has "lost her fight." 
She reported that she is afraid of losing her children. Her 
children are currently staying with her husband; patient 
affirmed that she does not worry about children's safety in his 
presence despite their marital issues. She explains that she 
"does not feel right anymore" and notes that she recently 
started Effexor this past month and wonders if this is may have 
something to do with how she feels. She recalled having suicidal 
thoughts on ___ and ___, with thoughts of "I don't want to 
be here anymore" but denies plan or intent. She states she would 
not hurt herself because she values her life and her children, 
but she does feel overwhelmed at this time. She endorses 
depressed mood, decreased appetite, fatigue/loss of energy, 
guilt about her situation with her children/drinking, and 
hopelessness about her current situation. Patient feels that she 
may benefit from inpatient hospitalization at this time in order 
to "get away for a bit." She thinks it may help her manage her 
stress, emotional abuse, high levels of anxiety, and low mood. 
She stopped taking her Effexor this morning due to fear that it 
was worsening her mood and also feels she may benefit from 
medication management in an inpatient setting. She explains that 
she has been to rehabilitation facilities and been hospitalized 
due to her alcohol in the past, but thinks she needs help with 
her mood at this time. 
.
COLLATERAL: Collateral from Dr. ___ PCP. ___, 
___ Patient as known patient and family for many 
years. States that her home life is "disastrous". Is concerned 
that her perception of reality is affected. States that she was 
sectioned last year and was taken from her home in ___ in 
front of her family. ___ and ___ are involved.  In clinic today, 
he felt that she "looked terrible". Was crying, agitated. Stated 
"If I can't be with my kids, then maybe I shouldn't be here." 
Dr. ___ was very concerned and, while admitting that he is no 
expert on the subject, believes that she should be admitted as 
she has failed rehab multiple times.
.
Mother - ___, p: ___ Per Mother, she thinks 
these last 2 months have been increasingly difficult for the 
patient. Mother became tearful speaking about her daughter's 
stressors. She collaborated story of her husband filing the 
divorce papers and picking up a lady on the side of the road. 
Patient states since patient is still in recovery from her 
alcohol, this had made things her more difficult. Mother was 
unaware that patient was on an antidepressant. Patient had told 
her mother 2 nights ago in the setting of discussing her 
multiple stressors that she would like to jump off a building, 
I'd like to die. Mother feels that is depressed at this time and 
having extreme hopelessness in setting of her psychosocial 
stressors. Last night mother felt that she needed help for her 
depression, and while it's situational, she may benefit from 
psychiatric help. "
 
Past Medical History:
Past psychiatric history:
- Past diagnoses: Alcohol Use Disorder 
- Hospitalizations: One previous inpatient psychiatric admission 
at ___ in ___ for alcohol use
- Psychiatrist: ___, has only met her once 
and prescribed her the Effexor
- Therapists: ___ ) and ___ 
___, seeing him for ___ year, saw him last week, next 
appointment is this supposed to be upcoming ___ (which 
patient cancelled), ___
- Medication and ECT trials: Paxil (prescribed with onset of 
menopause; discontinued due to perceived association with rectal 
bleeding), Prozac (discontinued due to nausea/gag reflex) 
- ___ attempts: Denies
.
PAST MEDICAL HISTORY:
**PCP: Dr, ___ ___ in ___
Supraventricular tachycardia - on metoprolol ER 25mg daily.  
Denies history of head trauma, seizure.
.
Pharmacy: ___ Pharmacy ___
-Metoprolol ER 25 mg daily  (last filled ___
-Venlafaxine 37.5 mg daily (last filled ___ - last took it 
___ AM
-Lorazepam 0.5 mg daily PRN  (last filled ___ x 10 day 
supply)
-Acamprosate 333 mg 2 tablets TID  (last filled ___
-Vivitrol shot x1 month (last shot ___
.
Allergies:NKDA        
 
Social History:
Substance use history - Longstanding history of alcohol misuse; 
multiple rehab admissions, including one Section 35 admission to 
___ in ___ (22 days). Longest period of sobriety ~60 days. 
Last drink on ___. No history of withdrawal seizures or 
DTs.
Regularly attends AA (6days per week); has sponsor. Consumes 
marijuana edibles intermittently. Denies other illicits or 
tobacco use. 
.
Forensic history notable for S35 as above; also incurred 
domestic violence related charges stemming from incident with 
her husband in ___. Patient was on probation (with terms to 
remain sober) until ___. No current or outstanding 
charges. 
.
Personal and Social History:
___
Family History:
Family psychiatric history absent for any known psychiatric 
hospitalizations or completed suicides.

 
Physical Exam:
ON ADMISSION:

VITAL SIGNS:
___ 2154 Temp: 98.1 PO BP: 147/95 HR: 85 RR: 16 O2 sat: 97% 
on RA
EXAM:
.
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: ___, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and ___.  No edema of the limbs.
-Skin: Noted to have scrape on left temporal
.
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  ___, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function ___ go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "don't cry over spilled milk" as "don't 
sweat the little things"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
-Appearance: caucasian appearing stated age, well groomed, 
wearing hospital gown, in no apparent distress
-Behavior: Sitting up in bed, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "better than yesterday"
-Affect: ___, somewhat anxious at times, full range, 
appropriate to situation
-Speech: Normal rate, volume, and tone, talkative but easily 
interruptible
-Thought process: Linear, coherent, ___, no loose 
associations
-Thought Content:
---Safety: recent SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: Fair

ON DISCHARGE:
Mental Status Exam:
Appearance: well groomed, taking showers
Facial expression: friendly, smiling on approach
build: WNL
Behavior: engaging, cooperative, pleasant
Eye contact: direct
psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, and tone
Mood/affect: "OK", stable, hopeful, no irritability
Thought Process/content: reality oriented, goal directed, denies 

SI/HI, denies AH/VH/paranoid delusions, 
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair
 
Pertinent Results:
___ 02:58PM   ___ 
___

___ 02:58PM   ___ 
___ IM ___ 
___

___ 02:58PM   PLT ___

___ 02:58PM   ___ UREA ___ 
___ TOTAL ___ ANION ___

___ 03:30PM URINE  ___ 
___

___ 06:24  
ALT 30, AST 52, AlkPhos 76, TotBili 1.6
TSH 3.___. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#) Adjustment Disorder with Mixed Anxiety and Depressed Mood -  
On admission, patient reported prior fleeting thoughts of 
suicide in the context of strained marriage. She noted increased 
stress, anxiety leading to recent alcohol relapse. She also 
notes having low mood, poor appetite, and significant guilt, but 
denies other depressive symptoms. She was recently started on 
Effexor and notes some questionable increased restlessness and 
activation since starting. However, she denies other mania 
symptoms. Collateral from PCP and mother is concerning for the 
patient having worsening depression and increasing hopelessness. 
Diagnostically, presentation not overtly consistent with MDD, 
rather more likely adjustment disorder with anxious and 
depressed mood, superimposed on longstanding alcohol use 
disorder (which is likely contributing to current presentation).
.
Given patient's perceived reaction to venlafaxine (abrupt onset 
of suicidal thoughts), held this medication on admission. For 
anxiety with increased sympathetic tone (elevated BP, HR), 
initiated trial of clonidine 0.1mg BID PRN. For insomnia, 
started trazodone 25mg QHS insomnia. 
.
As admission progressed, patient described improvement in mood, 
anxiety, sleep, energy, and appetite since coming to  the 
inpatient unit; she denied SI/HI since being hospitalized and 
feels that she could safely return home. She denied any 
medication ___ and said that she finds her current 
medication regimen helpful for her symptoms.  She looks forward 
to returning home with her children and continuing treatment as 
outpatient, with her outpatient psychiatrist, individual 
therapist, family, therapist, as well as a ___ PHP. 
In addition, she plans to remain sober and continue attending ___ 
groups and the ___. Given ongoing 
tensions in her marriage, she plans to live with her friend, 
___ if that is not possible, she plans to live with her 
mother. Ms. ___ would be safe for discharge once appropriate 
referral to ___ and ___ appointments are established.
.
3. SUBSTANCE USE DISORDERS:
#) #Alcohol Use Disorder - Confirmed that patient received 
Vivitrol injection on ___ patient indicated that she intended 
to continue with monthly injections. Held home acamprosate given 
that patient had not found this medication helpful for alcohol 
cravings. Provided ongoing counseling for alcohol use disorder. 
Patient also attended AA and SMART recovery while on unit. 
Patient was referred to ___ PHP. 
Additionally, ___ appointment was scheduled with her 
outpatient psychiatrist.
.
4. MEDICAL
#)  #History of SVT - Continued home metoprolol (of note, 
patient had not been taking for several days prior to 
admission).
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient was noted to be 
appropriate and polite with staff and other patients on the 
unit.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient provided verbal permission to speak with outpatient 
clinicians (PCP - Dr. ___, Therapists ___ 
___ and ___. All 
three expressed willingness to continue working with patient 
following discharge; no acute safety concerns voiced ongoing.
.
___ met with the patient and her 
assigned ___ case manager, ___ ___ catchment 
area; Tel: ___ Email; ___. 
Discussed potential aftercare plans and patient shared she is 
open to attend a PHP to broaden her network of supports, 
understand
her emotions and learn more sufficient ways to process them. 
Other topics addressed were the multiple losses, triggers, 
childcare concerns, and marital discord that have impacted her 
and the family just this past year. It was suggested that all 
family members attend family counseling, along with individual 
therapy to promote health, reality testing and change. Patient 
agreed with aftercare plan and was planning to transition back 
home - if this is not suitable she has options to stay with her 
friend ___ or her mother ___ 
___. She is planning on transitioning to PHP then IOP, 
continue to work with established providers reconnect with AA 
supports and engage in some additional work regarding 
complicated bereavement, along with some CBT, Stress Management 
Techniques, and Family systems issues.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon new 
onset suicidal ideation due to significant social stressors and 
recent alcohol relapse.  Their static factors noted at that time 
include history of abuse, chronic mental illness, history of 
substance abuse, Caucasian race. The modifiable risk factors 
identified were as such: suicidal ideation, impulsivity, 
recklessness, active substance use disorder, acute intoxication, 
poorly controlled mental illness, lack of engagement with 
outpatient treatment, hopelessness, insomnia, lack of purpose, 
feeling trapped, decreased ___, psychic pain/turmoil, 
limited coping skills. These modifiable risk factors were 
addressed with acute stabilization in a safe environment on a 
locked inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with  psychiatrists, and presence on 
a social milieu environment. Finally, the patient is being 
discharged with many protective risk factors,  including 
___ nature, ___ viewpoint, sense of 
responsibility to family, children in the home, reality testing 
ability, good coping skills, good ___ skills, 
positive therapeutic relationship with outpatient providers, 
lack of suicidal ideation, and strong social supports.  Thus, I 
feel the patient does not meet section 12a criteria for risk of 
harm to self/others.  Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of ___ nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Venlafaxine 37.5 mg PO DAILY 
3. LORazepam 0.5 mg PO DAILY:PRN anxiety 
4. Acamprosate 666 mg PO TID 
5. Naltrexone ___ Suspension 380 mg IM EVERY 4  
WEEKS (___) 

 
Discharge Medications:
1.  CloNIDine 0.1 mg PO BID PRN for elevated BP, hold for SBP 
<100 
Do not take this medication if your systolic blood pressure is 
below 100. 
RX *clonidine HCl 0.1 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*1 
2.  TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth tab Disp 
#*14 Tablet Refills:*0 
3.  Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
dily Disp #*14 Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0 
5.  Naltrexone ___ Suspension 380 mg IM EVERY 4  
WEEKS (___) 
Last injection was on ___.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder with Mixed Anxiety and Depressed Mood
Alcohol Use Disorder, severe 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___